US07282586B1
1,3,5-tris-(5-[1,10]phenanthroline-2-yl-[1,3,4]oxadiazol-2-yl)-benzene
To a flask was added a mixture of 15 g 2-(1H-tetrazol-5-yl)-[1,10]phenanthroline and 300 ml pyridine. The mixture was then heated to 80-90° C., and 4.86 g 1,3,5 benzene tricarbonyl chloride was added. Subsequently, the mixture solution was heated to 110° C. and stirred overnight. After completion of reaction, as shown in scheme 8, the reaction mixture was filtered to collect solids. The solids was washed by pyridine and CH2Cl2 respectively, and then dried on oven to obtain products 6.6 g (yield=44.1%). MS(m/z, FAB+), 888, 810, 521, 444, 155.

reactant | 2-(1H-tetrazol-5-yl)-[1,10]phenanthroline | 15 g | N1N=NN=C1C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C13H8N6
reactant | 1,3,5 benzene tricarbonyl chloride | 4.86 g | C1(=CC(=CC(=C1)C(=O)Cl)C(=O)Cl)C(=O)Cl | C9H3Cl3O3
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 1,3,5-tris-(5-[1,10]phenanthroline-2-yl-[1,3,4]oxadiazol-2-yl)-benzene | 6.6 g, yield=44.1% | N1=C(C=CC2=CC=C3C=CC=NC3=C12)C1=NN=C(O1)C1=CC(=CC(=C1)C=1OC(=NN1)C1=NC2=C3N=CC=CC3=CC=C2C=C1)C=1OC(=NN1)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C48H24N12O3
